US05905076
A mixture of (3S,4S)-3-(N-benzyloxycarbonyl-L-phenylalanyl)amino-4-acetoxy-azetidin-2-one (4.57 g, 10.8 mmole), 2-bromoethanol (1479 mg, 11.83 mmole), and zinc acetate dihydrate (1.78 g, 8.128 mmole) in a mixture of benzene (150 ml) and toluene (150 ml) was refluxed for 7 hrs using Dean-Stark water separator. After cooling, the reaction mixture was partitioned between ethyl acetate (1000 ml), acetone (100 ml) and water (500 ml). The organic layer was washed with water, brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (55:45) as eluent and (3S,4S)-3-(N-benzyloxycarbonyl-L-phenylalanyl)amino-4-bromoethoxy-azetidin-2-one was obtained (650 mg, 12% yield).

reactant | (3S,4S)-3-(N-benzyloxycarbonyl-L-phenylalanyl)amino-4-acetoxy-azetidin-2-one | 10.8 mmole, 4.57 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@H]1OC(C)=O)=O | C22H23N3O6
reactant | 2-bromoethanol | 11.83 mmole, 1479 mg | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc acetate dihydrate | 8.128 mmole, 1.78 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | (3S,4S)-3-(N-benzyloxycarbonyl-L-phenylalanyl)amino-4-bromoethoxy-azetidin-2-one | 12% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@H]1OCCBr)=O | C22H24BrN3O5
